US07589201B2
3-(1,4-Diazabicyclo[3.2.1]oct-4-ylcarbonyl)-6-methyl-1H-pyrazolo[3,4-b]pyridine hydrobromide 2:1
By analogy with Example 2, 0.7 g (3.3 mmol) of 3-bromo-6-methyl-1H-pyrazolo[3,4-b]pyridine is reacted with 1.1 g (9.9 mmol) of 1,4-diazabicyclo[3.2.1]octane in the presence of 0.35 g (0.5 mmol) of bis(triphenylphosphino)dichloropalladium and 2.3 ml of triethylamine in 10 ml of dimethylformamide under the conditions described for Example 1, giving 0.21 g of product, which is dissolved in 20 ml of acetone before addition of 0.27 ml of a 5.7 N solution of hydrobromic acid in acetic acid. The dihydrobromide crystals are collected by filtration and dried under vacuum.

reactant | 3-bromo-6-methyl-1H-pyrazolo[3,4-b]pyridine | 3.3 mmol, 0.7 g | BrC1=NNC2=NC(=CC=C21)C | C7H6BrN3
reactant | 1,4-diazabicyclo[3.2.1]octane | 9.9 mmol, 1.1 g | N12CCNC(CC1)C2 | C6H12N2
reactant | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphino)dichloropalladium | 0.5 mmol, 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](Cl)(Cl)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(1,4-Diazabicyclo[3.2.1]oct-4-ylcarbonyl)-6-methyl-1H-pyrazolo[3,4-b]pyridine hydrobromide | 0.21 g | Br.N12CCN(C(CC1)C2)C(=O)C2=NNC1=NC(=CC=C12)C | InChI=1S/C14H17N5O.BrH/c1-9-2-3-11-12(16-17-13(11)15-9)14(20)19-7-6-18-5-4-10(19)8-18;/h2-3,10H,4-8H2,1H3,(H,15,16,17);1H
